US07151112B1
Synthesis of [5-(4-Fluorophenylcarbamoyl)Pyridin-2-Ylsulfanyl]Acetic Acid 3-Fluoro-Benzyl Ester
A solution of [5-(4-fluorophenylcarbamoyl)pyridin-2-ylsulfanyl]acetic acid (0.030 g, 0.10 mmole), 3-fluorobenzyl alcohol (0.10 mL, 1.0 mmol), and sulfuric acid (1 drop) in toluene (5 mL) was heated at reflux. After 2 h the reaction mixture was poured into ethyl acetate and washed with saturated sodium bicarbonate and dried over sodium sulfate. Removal of the solvents provided a solid. Purification by trituration using ethyl acetate/hexanes gave 0.011 g (27%) of the titled product as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.36 (s 1H); 8.86 (m, 1H); 8.12 (m, 1H); 7.74 (m, 2H); 7.51 (m, 1H); 7.35 (m, 1H); 7.15 (m, 5H); 5.16 (m, 2H), 4.18 (m, 2H); MS (EI) m/z 413.05 (M−H)−.

reactant | [5-(4-fluorophenylcarbamoyl)pyridin-2-ylsulfanyl]acetic acid | 0.10 mmole, 0.030 g | FC1=CC=C(C=C1)NC(=O)C=1C=CC(=NC1)SCC(=O)O | C14H11FN2O3S
reactant | 3-fluorobenzyl alcohol | 1.0 mmol, 0.10 mL | FC=1C=C(CO)C=CC1 | C7H7FO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | [5-(4-Fluorophenylcarbamoyl)Pyridin-2-Ylsulfanyl]Acetic Acid 3-Fluoro-Benzyl Ester | 0.011 g, 27% | FC=1C=C(COC(CSC2=NC=C(C=C2)C(NC2=CC=C(C=C2)F)=O)=O)C=CC1 | C21H16F2N2O3S
